US04200628
To a solution of 1.4 g (5.57 mmoles) of 1-diphenylmethyl-2-formylazetidine in a mixture of 7.5 ml of tetrahydrofuran and 7.5 ml of water is added 0.91 ml (11.14 mmoles) of concentrated hydrochloric acid under cooling and then 0.724 g (11.14 mmoles) of potassium cyanide is added thereto. The mixture is stirred for 2 hours and extracted with 30 ml of ether. The aqueous layer is reextracted with 30 ml of ether. The extract and the above organic layer are combined, washed with water, dried over magnesium sulfate and evaporated under reduced pressure to yield 1.6 g of crude syrupy 2-hydroxy-2-(1-diphenylmethylazetidin-2-yl)acetonitrile in quantitative yield.

reactant | 1-diphenylmethyl-2-formylazetidine | 5.57 mmoles, 1.4 g | C1(=CC=CC=C1)C(N1C(CC1)C=O)C1=CC=CC=C1 | C17H17NO
reactant | hydrochloric acid | 11.14 mmoles, 0.91 ml | Cl | ClH
reactant | potassium cyanide | 11.14 mmoles, 0.724 g | [C-]#N.[K+]
solvent | tetrahydrofuran | 7.5 ml | O1CCCC1 | C4H8O
solvent | water | 7.5 ml | O | H2O
product | 2-hydroxy-2-(1-diphenylmethylazetidin-2-yl)acetonitrile | 1.6 g, quantitative yield | OC(C#N)C1N(CC1)C(C1=CC=CC=C1)C1=CC=CC=C1 | C18H18N2O
